US08466290B2
6-chloro-2-phenyl-N-[5-(2-thienyl)-1,3,4-oxadiazol-2-yl]-4-quinolinecarboxamide (compound Ia-121)
The title compound was synthesized according to the synthesis method of a compound Ia-122 described later using 4-(6-chloro-2-phenyl-4-quinolinecarbonyl)-1-(2-thiophenecarbonyl)thiosemicarbazide described in Reference Example 37 instead of 4-(2-phenyl-6-trifluoromethoxy-4-quinolinecarbonyl)-1-(2-thiophenecarbonyl)thiosemicarbazide.

reactant | 4-(6-chloro-2-phenyl-4-quinolinecarbonyl)-1-(2-thiophenecarbonyl)thiosemicarbazide | ClC=1C=C2C(=CC(=NC2=CC1)C1=CC=CC=C1)C(=O)NC(NNC(=O)C=1SC=CC1)=S | C22H15ClN4O2S2
reactant | 4-(2-phenyl-6-trifluoromethoxy-4-quinolinecarbonyl)-1-(2-thiophenecarbonyl)thiosemicarbazide | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2C(=C1)C(=O)NC(NNC(=O)C=1SC=CC1)=S)OC(F)(F)F | C23H15F3N4O3S2
product | 6-chloro-2-phenyl-N-[5-(2-thienyl)-1,3,4-oxadiazol-2-yl]-4-quinolinecarboxamide | ClC=1C=C2C(=CC(=NC2=CC1)C1=CC=CC=C1)C(=O)NC=1OC(=NN1)C=1SC=CC1 | C22H13ClN4O2S
